US08212034B2
Preparation of 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoic Acid
A suspension of methyl 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoate (10 g) in ethanol (200 ml) was treated with aqueous sodium hydroxide solution (0.1N, 246 ml) at 0-5° C. The reaction mixture was stirred at 25-30° C. for 12 h for completion of hydrolysis and ethanol was evaporated under reduced pressure. The resulting mass was acidified and extracted with methylene chloride (2×100 ml). The organic layer was washed with water, dried and concentrated to give the title product (Yield 9.4 g).

reactant | methyl 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoate | 10 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/C(=O)OC)C(C)C)N(S(=O)(=O)C)C | C19H22FN3O4S
reactant | sodium hydroxide | 0.1N, 246 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-[4-(4-fluorophenyl)-6-isopropyl-2-(N-methyl-N-methylsulfonylamino)pyrimidin-5-yl](2E)-propenoic Acid | Yield 9.4 g | FC1=CC=C(C=C1)C1=NC(=NC(=C1/C=C/C(=O)O)C(C)C)N(S(=O)(=O)C)C | C18H20FN3O4S
